US06004994
A solution of 11 ml of titanium tetrachloride in 27 ml of carbon tetrachloride is added dropwise at -10° C. to 110 ml of anhydrous tetrahydrofuran. Once the addition is complete, a solution of 14.7 g of 4-chloro-4'-(methylsulphonyl)benzophenone (the preparation of which is described in the document W097/37984) in 50 ml of anhydrous tetrahydrofuran is added dropwise in keeping the temperature below 0° C. A mixture of 8.05 g of 2-phenyl-5(4H)-oxazolone, 16 ml of pyridine and 25 ml of anhydrous tetrahydrofuran is then added dropwise at 0° C. The mixture is stirred 2 hours at this temperature, then brought to ambient temperature and 50 ml of water are added. After decanting, the organic phase is washed with water then dried over magnesium sulphate and evaporated off under vacuum. The residue crystallises in an acetone/t-butyl methyl ether mixture and is chromatographed on silica in an acetone/dichloromethane mixture (0.3/10) to give 5 g of (E)-4-[1-(4-chlorophenyl)-1-[4-(methylsulphonyl)phenyl]methylene]-2-phenyl-5-oxazolone as crystals of melting point 226° C.

reactant | 4-chloro-4'-(methylsulphonyl)benzophenone | 14.7 g | ClC1=CC=C(C(=O)C2=CC=C(C=C2)S(=O)(=O)C)C=C1 | C14H11ClO3S
reactant | 2-phenyl-5(4H)-oxazolone | 8.05 g | C1(=CC=CC=C1)C=1OC(CN1)=O | C9H7NO2
reactant | pyridine | 16 ml | N1=CC=CC=C1 | C5H5N
reactant | water | 50 ml | O | H2O
solvent | carbon tetrachloride | 27 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | titanium tetrachloride | 11 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | (E)-4-[1-(4-chlorophenyl)-1-[4-(methylsulphonyl)phenyl]methylene]-2-phenyl-5-oxazolone | 5 g | ClC1=CC=C(C=C1)\C(\C1=CC=C(C=C1)S(=O)(=O)C)=C/1\N=C(OC1=O)C1=CC=CC=C1 | C23H16ClNO4S
